US05290934
To 2-methyl-3-nitrobenzoic acid (10.0 g) is added methanol (100 ml) and thereto thionyl chloride (8 ml) is added dropwise at room temperature. After reflux for 2 hours, the reaction mixture is poured into ice-water and extracted with dichloromethane. The solvent is concentrated to give methyl 2-methyl-3-nitrobenzoate (10.8 g).

reactant | 2-methyl-3-nitrobenzoic acid | 10.0 g | CC1=C(C(=O)O)C=CC=C1[N+](=O)[O-] | C8H7NO4
reactant | thionyl chloride | 8 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 100 ml | CO | CH4O
product | methyl 2-methyl-3-nitrobenzoate | 10.8 g | CC1=C(C(=O)OC)C=CC=C1[N+](=O)[O-] | C9H9NO4
